US07595320B2
Ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate (10 g, 28 mmol), 4-methoxybenzamide (7.39 g, 48 mmol, 1.7 eq.), copper(I)iodide (0.548 g, 2.88 mmol, 0.1 eq.), preground tripotassium phosphate (18.34 g, 86 mmol, 3 eq.) and 180 mL of anhydrous dioxane degassed beforehand with argon are introduced into a 500 mL round-bottomed flask under argon. 0.306 mL (2.88 mmol, 0.1 eq.) of N,N′-dimethylethylenediamine is added to this suspension by syringe. The reaction mixture is then heated to a temperature in the region of 110° C. for a period of 24 hours. The dioxane is then evaporated off under vacuum and the residue is diluted with ethyl acetate (300 mL) and 150 mL of water. The organic phase is washed once with 100 mL of water and is then dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue is purified by chromatography on silica gel, eluting with an ethyl acetate/heptane mixture (1:1). The pale yellow oil obtained after purification corresponds to ethyl 1-(1-ethoxyethyl)-3-(4-methoxybenzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylate (7.41 g, 64%). The combined aqueous phases are acidified with 5 N hydrochloric acid to pH 5-6. A thick precipitate appears, which is extracted with (2×100 mL) of ethyl acetate. The organic phase is in turn dried over magnesium sulfate and concentrated to dryness under reduced pressure. The white solid obtained after evaporation is triturated in a heptane/dimethyl ether mixture (1:1). After filtration, 1-(1-ethoxyethyl)-3-(4-methoxybenzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid is obtained in the form of a white solid (1.27 g, 11%). The ethyl 1-(1-ethoxyethyl)-3-(4-methoxybenzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylate is subjected to saponification using 50 mL of tetrahydrofuran and 20 mL of 5 N sodium hydroxide at a temperature in the region of 50° C. for 5 hours. The tetrahydrofuran is then evaporated off, the aqueous phase is diluted with 150 mL of water and the pH is adjusted to 3-4 with 5 N hydrochloric acid. The white precipitate obtained is filtered off and washed with water, and then dried under vacuum at a temperature in the region of 60° C. 7.04 g of 1-(1-ethoxyethyl)-3-(4-methoxybenzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid are thus obtained, i.e. 98%, which product is used directly in the following step.

reactant | Ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 28 mmol, 10 g | BrC=1C2=C(N(N1)C(C)OCC)SC(=C2)C(=O)OCC | C12H15BrN2O3S
reactant | 4-methoxybenzamide | 48 mmol, 7.39 g, 1.7 eq. | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | tripotassium phosphate | 86 mmol, 18.34 g, 3 eq. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 2.88 mmol, 0.306 mL, 0.1 eq. | CNCCNC | C4H12N2
catalyst | copper(I)iodide | 2.88 mmol, 0.548 g, 0.1 eq. | [Cu]I
solvent | dioxane | 180 mL | O1CCOCC1 | C4H8O2
product | 1-(1-ethoxyethyl)-3-(4-methoxybenzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)O)NC(C2=CC=C(C=C2)OC)=O | C18H19N3O5S
